US05925630
A solution of 3α-hydroxy-2β-isopropoxy-5α-androstan-17-one-17-dimethyl acetal (prepared by the epoxide opening of 2α,3α-epoxy-5α-androstan-17-one with isopropoxide, followed by ketalization of 17-one) (490 mg, 1.25 mmol) in dry THF (15 mL) was treated with LAH (48 mg, 1.33 mmol) and AlCl3 (332 mg, 2.5 mmol) at -30° C. After stirring the mixture at 23° C. for 1 hr, it was quenched with NH4Cl solution (2 mL). The solvents were removed and the residue was extracted with EtOAc. The organic layer was washed with dil. HCl, water, and brine. After drying over anhyd. MgSO4 the solution was filtered and evaporated to yield the crude product. This crude product was then dissolved in a small amount of CH2Cl2 and poured on a column of silica gel. Elution with hexane:acetone mixture (9:1) gave 3α-hydroxy-2β-isopropoxy-17β-methoxy-5α-androstane (43 mg) as a foam; TLC Rf (hexane:acetone 7:3)=0.41.

reactant | 2α,3α-epoxy-5α-androstan-17-one | O1[C@H]2[C@@H]1C[C@@H]1CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]1(C2)C)=O | C19H28O2
reactant | isopropoxide | CC([O-])C
reactant | LAH | 1.33 mmol, 48 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | AlCl3 | 2.5 mmol, 332 mg | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | THF | 15 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3α-hydroxy-2β-isopropoxy-17β-methoxy-5α-androstane | 43 mg | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(C[C@@H]1OC(C)C)C)OC | C23H40O3
